US04362876
Preparation of 2,4-Dihydroxyquinoline
Into a 150 ml three neck flask, equipped with an agitator, a reflux condenser sealed on its upper end with a gas bubbler, a thermometer and an electric heating mantle were charged 16.3 g pure isatoic anhydride (M.W. 163) 10.1 g triethylamine (M.W. 101), 9.9 g methyl cyanoacetate (M.W. 99) and 2 ml DMF. The reaction mixture, under agitation, was kept at a temperature within the range of 25° to 30° C. for approximately 1 hour. During this period a constant evolution of gas was observed. The temperature of the reaction mixture was then elevated to and maintained at 78° to 80° C. for approximately 2 hours. At the end of this heating period the evolution of gas practically stopped and the reaction mixture turned into a slightly yellow, good stirrable oil. A minimum of water (approximately 40 ml) and the still hot oil were transferred to a 300 ml stainless steel autoclave, equipped with an anchor agitator, a pressure gauge, a thermocouple and a vent-valve. A charge of 14.7 g sodium hydroxide (MW 40) pellets was added to the reaction mixture and the autoclave was closed. The contents of the autoclave, under agitation, were heated to and maintained at a temperature in the range of 150° to 155° C. for 3 hours. The pressure in the autoclave reached 275 to 280 psig during the heating; after cooling to 50° to 60° C. hot water was added to the autoclave and approximately 600 ml of a brownish colored solution was removed therefrom and treated with 1 g activated charcoal at 60° C. A slightly yellowish colored solution which resulted was then acidified with concentrated hydrochloric acid to a pH of approximately 2. White, slightly creamy colored precipitate which formed was recovered by filtration; the precipitate was then reslurried in 200 ml water, refiltered and dried at 110° C. The yield was 14.17 g (87.9 percent of theory based upon the isatoic anhydride charged) 2,4-dihydroxyquinoline, melting point 350°-355° C. Examination of the product by infrared spectroscopy and nuclear magnetic resonance indicated that it was of high purity.

reactant | isatoic anhydride | 16.3 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | methyl cyanoacetate | 9.9 g | C(#N)CC(=O)OC | C4H5NO2
reactant | sodium hydroxide | 14.7 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | water | approximately 40 ml | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,4-Dihydroxyquinoline | OC1=NC2=CC=CC=C2C(=C1)O | C9H7NO2
